US04382891
A solution of 770 mg (5 mmol) of 4-nitrobenzyl alcohol in 15 ml of methylene chloride was added dropwise to a stirred solution of 3.0 g (7.5 mmol) of bis[2,2,2-trifluoro-1-(trifluoromethyl)ethoxy]sulfur difluoride in 5 ml of methylene chloride at 25°. The reaction mixture was stirred for 18 hrs, and then evaporated to dryness under reduced pressure. The residue was recrystallized from pentane to give 490 mg (63%) of 4-nitrobenzyl fluoride as colorless needles, mp 33° to 34°. A second recrystallization raised the melting point to 36° to 37°. The 4-nitrobenzyl fluoride is a known compound useful as a chemical intermediate.

reactant | 4-nitrobenzyl alcohol | 5 mmol, 770 mg | [N+](=O)([O-])C1=CC=C(CO)C=C1 | C7H7NO3
reactant | bis[2,2,2-trifluoro-1-(trifluoromethyl)ethoxy]sulfur difluoride | 7.5 mmol, 3.0 g | FC(C(OS(OC(C(F)(F)F)C(F)(F)F)(F)F)C(F)(F)F)(F)F | C6H2F14O2S
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 4-nitrobenzyl fluoride | 490 mg, 63% | [N+](=O)([O-])C1=CC=C(CF)C=C1 | C7H6FNO2
